US20010025047A1
4-[Benzyl-(4-methoxybenzenesulfonyl)amino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic Acid
A mixture of 0.48 g (0.97 mmol) of ethyl 4-[benzyl-(4-methoxybenzenesulfonyl) amino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate and 0.29 ml of 10N NaOH in 4 ml of tetrahydrofuran-methanol (1:1) was heated in an oil bath at 70° C. for 2 hours and the solvent removed under vacuum. The residue was dissolved in 20 ml of H2O and the solution extracted with 10 ml of diethyl ether. To the aqueous layer was added 2N citric acid (pH 4-5) and the precipitated solid filtered and washed with H2O to give a white solid which was dried under vacuum overnight to give crystals, mp 165-167° C.

reactant | ethyl 4-[benzyl-(4-methoxybenzenesulfonyl) amino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.97 mmol, 0.48 g | C(C1=CC=CC=C1)N(C1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C)S(=O)(=O)C2=CC=C(C=C2)OC | C25H26N4O5S
reactant | NaOH | 10N, 0.29 ml | [OH-].[Na+]
solvent | tetrahydrofuran-methanol | 4 ml | O1C(CCC1)CO | C5H10O2
product | 4-[Benzyl-(4-methoxybenzenesulfonyl)amino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic Acid | C(C1=CC=CC=C1)N(C1=C2C(=NC=C1C(=O)O)N(N=C2C)C)S(=O)(=O)C2=CC=C(C=C2)OC | C23H22N4O5S
